US08445530B2
4-Bromo-3-(2-m-tolyl-ethoxy)-benzoic acid methyl ester
4-Bromo-3-hydroxy-benzoic acid methyl ester (1.00 g, 4.32 mmol) and triphenylphosphine (1.36 g, 5.19 mmol) were dissolved in THF. 2-(3-Methylphenyl)-ethanol (2-m-tolyl-ethanol) (0.707 g, 5.19 mmol) was added, the mixture was cooled in an ice bath, and DIAD (1.05 g, 5.19 mmol) was added slowly with stirring. The ice bath was removed and stirring continued overnight at room temperature. The volatiles were evaporated in vacuo, and the residue was purified by silica gel chromatography (HEP/EA gradient) to give 1.55 g of the title compound.

reactant | 4-Bromo-3-hydroxy-benzoic acid methyl ester | 4.32 mmol, 1.00 g | COC(C1=CC(=C(C=C1)Br)O)=O | C8H7BrO3
reactant | triphenylphosphine | 5.19 mmol, 1.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(3-Methylphenyl)-ethanol | 5.19 mmol, 0.707 g | CC=1C=C(C=CC1)CCO | C9H12O
reactant | DIAD | 5.19 mmol, 1.05 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 4-Bromo-3-(2-m-tolyl-ethoxy)-benzoic acid methyl ester | 1.55 g | COC(C1=CC(=C(C=C1)Br)OCCC=1C=C(C=CC1)C)=O | C17H17BrO3
